US03940419
To a solution containing 300 mgs. 3-chloro-N-(1-cyanocyclohexyl)-phthalimide in 3ml. methylene chloride is added, with good stirring, 0.38 ml. concentrated sulfuric acid. After 0.5 hour, ice is added and the aqueous phase extracted with chloroform. The organic phase is washed with water, dried and evaporated to give the 1-(3-chlorophthalimido)cyclohexanecarboxamide which can be purified by recrystallization from aqueous ethanol, m.p. 193°-194°C.

reactant | 3-chloro-N-(1-cyanocyclohexyl)-phthalimide | ClC1=C2C(C(=O)N(C2=O)C2(CCCCC2)C#N)=CC=C1 | C15H13ClN2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(3-chlorophthalimido)cyclohexanecarboxamide | ClC1=C2C(C(=O)N(C2=O)C2(CCCCC2)C(=O)N)=CC=C1 | C15H15ClN2O3
